US07220856B2
Preparation of 4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloro-2-(isopropylamino)-quinoline
4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloroquinol-2-one (150 mg, 0.41 mmol), sodium hydride (15 mg, 0.6 mmol), N-phenyl(trifluoromethylsulfon)imide (208 mg, 0.58 mmol), and isopropylamine (0.14 mL, 1.65 mmol) are treated according to method E yielding the title product.

reactant | 4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloroquinol-2-one | 0.41 mmol, 150 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(NC2=CC(=CC=C12)Cl)=O | C18H22ClN3O3
reactant | sodium hydride | 0.6 mmol, 15 mg | [H-].[Na+]
reactant | isopropylamine | 1.65 mmol, 0.14 mL | C(C)(C)N | C3H9N
product | 4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloro-2-(isopropylamino)-quinoline | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=NC2=CC(=CC=C12)Cl)NC(C)C | C21H29ClN4O2
